US05721245
A solution of 72 mg of 3-(6,7,8,9-tetrahydropyrido[1,2-a]indol-10-yl)-4-(1-methyl-3-indolyl)furan-2,5-dione in 5 ml of dimethylformamide and 5 ml of 33% aqueous ammonia was heated to 140° C. for 4 hours. The resulting crystals were filtered off and dried to give 50 mg of 3-(6,7,8,9-tetrahydro-pyrido[1,2-a]indol-10-yl)-4-(1-methyl-3-indolyl)-1H-pyrrole-2,5-dione of melting point 286°-289° C.

reactant | 3-(6,7,8,9-tetrahydropyrido[1,2-a]indol-10-yl)-4-(1-methyl-3-indolyl)furan-2,5-dione | 72 mg | C1=C2C(=C3N(C2=CC=C1)CCCC3)C=3C(OC(C3C3=CN(C1=CC=CC=C31)C)=O)=O | C25H20N2O3
reactant | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ammonia | 5 ml | N | H3N
product | 3-(6,7,8,9-tetrahydro-pyrido[1,2-a]indol-10-yl)-4-(1-methyl-3-indolyl)-1H-pyrrole-2,5-dione | 50 mg | C1=C2C(=C3N(C2=CC=C1)CCCC3)C=3C(NC(C3C3=CN(C1=CC=CC=C31)C)=O)=O | C25H21N3O2
